US09062059B2
ethyl 3-(1,5-naphthyridin-2-yl)prop-2-enoate (C-1)
2-chloro-1,5-naphthyridine (101 mg, 0.614 mmol), boronate ester X1 (195 mg, 0.920 mmol), S-Phos (25.2 mg, 0.061 mmol), K3PO4 (391 mg, 1.84 mmol) and PdOAc2 (6.89 mg, 0.031 mmol) were combined in a 5-mL microwave vial in THF (2.5 mL) and water (500 μl). The reaction mixture was heated at 100° C. for 15 min. The reaction mixture was diluted with EtOAc (20 mL), washed with sat. aq. NaHCO3 (25 mL) and brine (25 mL), dried over MgSO4, filtered, and concentrated in vacuo. The resulting residue was purified by gradient elution on silica gel (10 to 100% EtOAc in hexanes) to afford the title compound as a pale orange solid (118 mg, 90%). 1H NMR (500 MHz, DMSO): δ 9.02 (dd, J=4.1, 1.6 Hz, 1 H), 8.48 (d, J=8.8 Hz, 1 H), 8.48-8.42 (m, 1 H), 8.25 (d, J=8.7 Hz, 1 H), 7.84-7.79 (m, 2 H), 7.13 (d, J=16.0 Hz, 1 H), 4.25 (q, J=7.1 Hz, 2 H), 1.30 (t, J=7.1 Hz, 3 H) ppm; LRMS m/z (M+H) 229.2 found, 229.1 required.

reactant | 2-chloro-1,5-naphthyridine | 0.614 mmol, 101 mg | ClC1=NC2=CC=CN=C2C=C1 | C8H5ClN2
reactant | S-Phos | 0.061 mmol, 25.2 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | K3PO4 | 1.84 mmol, 391 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | water | 500 μl | O | H2O
product | ethyl 3-(1,5-naphthyridin-2-yl)prop-2-enoate | 118 mg, 90% | N1=C(C=CC2=NC=CC=C12)C=CC(=O)OCC | C13H12N2O2
